US09107916B2
A. (2E)-3-(dimethylamino)-1-(4-methylphenyl)but-2-en-1-one
A solution of 1-(4-methylphenyl)ethanone (2.0 g, 15 mmol) in (1,1-dimethoxy-ethyl)-dimethylamine was heated to 120° C. and stirred overnight. The reaction mixture was cooled and concentrated to dryness. The residue was stirred with 25 mL hexane for 1 h and filtered. The solids were washed with hexane and then dried to give the title compound (1.8 g, 60%) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 2.37 (3H, s), 2.65 (3H, s), 3.07 (6H, s), 5.68 (1H, s), 7.19 (2H, d, J=7.6 Hz), 7.77 (2H, d, J=8.0 Hz). [M+H] Calc'd for C13H17NO, 204. Found, 204.

reactant | 1-(4-methylphenyl)ethanone | 15 mmol, 2.0 g | CC1=CC=C(C=C1)C(C)=O | C9H10O
reactant | (1,1-dimethoxy-ethyl)-dimethylamine | COC(C)(OC)N(C)C | C6H15NO2
product | (2E)-3-(dimethylamino)-1-(4-methylphenyl)but-2-en-1-one | 1.8 g, 60% | CN(/C(=C/C(=O)C1=CC=C(C=C1)C)/C)C | C13H17NO
